US05840911
1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-tolyl)-imidazole dihydrochloride
Analogously to Example 2, 0.2 g of Raney nickel is added to a solution of 0.9 g (1.917 mmol) of 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-tolyl)-imidazole dihydrochloride in 60 ml of methanol/water (1:1), and hydrogenation is carried out at room temperature and under normal pressure until the absorption of hydrogen has ceased. The reaction mixture is then filtered, and the filtrate is acidified to pH 3 with 3N methanolic hydrochloric acid and is concentrated to a volume of approximately 20 ml. The product that has crystallized out is filtered off and recrystallized from ethanol/water, yielding the title compound with a water content of 11.81%, m.p. 220°-225° C. (decomp.), 1H-NMR (DMSO/D2O): δ=8.33 (d, 1H); 7.98 (s, 1H); 7.83 (d, 1H); 7.61-7.71 (m, 3H); 7.29 (d, 2H); 3.37 (s, 4H); 2.34 (s, 3H).

reactant | 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-tolyl)-imidazole dihydrochloride | 1.917 mmol, 0.9 g | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)C)N
catalyst | Raney nickel | 0.2 g | [Ni] | Ni
solvent | methanol water | 60 ml | CO.O
product | 1-[4-(Amidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-tolyl)-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)C)N | InChI=1S/C20H20N6.2ClH/c1-12-5-7-13(8-6-12)18-11-26(20(23)24-18)25-17-10-9-14-15(17)3-2-4-16(14)19(21)22;;/h2-8,11H,9-10H2,1H3,(H3,21,22)(H2,23,24);2*1H
